US04521422
[5-Methyl-7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]phenyl-methanone
A mixture of 0.05 mole of 3-(1-pyrrolidinyl)-1-(4-pyridinyl)-2-buten-1-one and 0.05 ml of (3-amino-1H-pyrazol-4-yl)phenyl-methanone in 50 ml of glacial acetic acid was refluxed for 8 hours. The solvent was removed and the residue partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The dichloromethane layer was washed with water, dried over magnesium sulfate and passed through a short pad of hydrous magnesium silicate. The eluent was concentrated and the residue crystallized from dichloromethane:hexane, giving the desired product, mp 209°-210° C.

reactant | 3-(1-pyrrolidinyl)-1-(4-pyridinyl)-2-buten-1-one | 0.05 mole | N1(CCCC1)C(=CC(=O)C1=CC=NC=C1)C | C13H16N2O
reactant | (3-amino-1H-pyrazol-4-yl)phenyl-methanone | 0.05 ml | NC1=NNC=C1C(=O)C1=CC=CC=C1 | C10H9N3O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | [5-Methyl-7-(4-pyridinyl)pyrazolo[1,5-a]pyrimidin-3-yl]phenyl-methanone | CC1=NC=2N(C(=C1)C1=CC=NC=C1)N=CC2C(=O)C2=CC=CC=C2 | C19H14N4O
